US06515011B2
To a 1.0 M solution of isopropylmagnesium chloride (1.0 mL, 2.08 mmol) in THF was added 2-bromopyridine (0.198 mL, 2.08 mmol) and the mixture was stirred for 1.5 hours. This dark solution, at 0° C., was quickly added to a cooled (−40° C.) solution of CuBr.DMS complex (0.206 g, 1.01 mmol) in THF (2 mL) and dimethylsulfide (1 mL), and the resulting mixture was stirred at −40° C. for 10 min, then placed in an ice bath. Tert-butyl 3-{(1E)-3-[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]-3-oxoprop-1-enyl}benzoate from the previous step, dissolved in THF (2 mL), was added dropwise and the mixture was stirred for 1.5 hours. The reaction was quenched with 20% aqueous NH4Cl solution, the dimethylsulfide was removed under reduced pressure and the mixture was partitioned between EtOAc and H2O. The layers were separated, the water layer was extracted with EtOAc, and the combined organics were washed with H2O and brine, dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The residue was chromatographed on a 10 g ISCO column using 0-40% EtOAc/hexanes over 40 min. The lower diastereomer was combined to give tert-butyl 3-{(1R)-3-[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]-3-oxo-1-pyridin-2-ylpropyl}benzoate as an oil (0.12 g, 37%). Absolute chirality was assigned based on literature precedent. TLC Rf=0.3 (1:1 EtOAc:hexanes, UV visualization); HPLC RT=2.1 min, method B; M+H=488.

reactant | isopropylmagnesium chloride | 2.08 mmol, 1.0 mL | C(C)(C)[Mg]Cl
reactant | 2-bromopyridine | 2.08 mmol, 0.198 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | Tert-butyl 3-{(1E)-3-[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]-3-oxoprop-1-enyl}benzoate | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(/C=C/C=1C=C(C(=O)OC(C)(C)C)C=CC1)=O | C24H25NO5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | dimethylsulfide | 1 mL | CSC | C2H6S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-{(1R)-3-[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]-3-oxo-1-pyridin-2-ylpropyl}benzoate | 0.12 g, 37% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(C[C@@H](C1=NC=CC=C1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)=O | C29H30N2O5
